US05834468
Oxalyl chloride (9.1 ml) was added to a suspension of 2-bibenzylcarboxylic acid (20 g) in dichloromethane (200 ml) followed by 0.1 ml of DMF. The mixture was stirred for 15 hours and evaporated to dryness. The residue was dissolved in diglyme (150 ml) and cooled to -70° C. under argon. Lithium tri-t-butoxyaluminohydride (177 ml of a 0.5M solution in diglyme) was added dropwise such that the temperature of the reaction mixture did not exceed -65° C. The reaction mixture was stirred for a further 2 hours at -70° C. and then poured onto ice. The slurry obtained was acidified (HCl) and extracted with diethyl ether (3×75 ml). The combined ether extracts were washed with brine and dried (MgSO4). The solvent was removed and the residue dissolved in petroleum ether (BP 60°-80° C.) and washed once with aqueous saturated sodium bicarbonate, five times with water and twice with brine then dried. Removal of the solvent gave an oil which was purified by chromatography on silica, eluting with dichloromethane-hexane (1:1 v/v), to give 2-(phenethyl)benzaldehyde, (4.83 g).

reactant | Oxalyl chloride | 9.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-bibenzylcarboxylic acid | 20 g | C=1(C(=CC=CC1)C(=O)O)CCC1=CC=CC=C1 | C15H14O2
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | HCl | Cl | ClH
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(phenethyl)benzaldehyde | 4.83 g | C(CC1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C15H14O
